US04152441
At -60° C. and under a nitrogen atmosphere, 44 ml. (0.072 mol) of n-butyl lithium (15% solution in n-hexane) was added dropwise under stirring to a solution of 7.8 g (0.07 mol) of 1-(methoxymethyl)imidazole and 8.1 g (0.072 mol) of N,N,N',N'-tetramethylethylenediamine in 100 ml of anhydrous tetrahydrofuran. The mixture was stirred for one hour and then 18.9 g (0.070 mol) of 2,4-dichloro-4'-fluorobenzophenone in 100 ml of anhydrous tetrahydrofuran were added at -60° C. The solution was stirred for one hour at -60° C. and kept standing overnight at room temperature. Then 50 ml of water were added and the solid matter formed was filtered off. The filtrate was extracted with tetrahydrofuran and diethyl ether. The organic phase was dried over sodium sulphate and the solvents were distilled off. Diethyl ether was added to the semisolid residue and the solid matter was filtered off. This product was combined with the solid matter obtained after the addition of water. The substance was twice crystallised from acetone with a small amount of dimethylformamide. α-(2,4-Dichlorophenyl)-α-(p-fluorophenyl)-1-(methoxymethyl)imidazole-2-methanol was obtained. Melting point 179° C.

reactant | n-butyl lithium | 0.072 mol | C(CCC)[Li]
reactant | 1-(methoxymethyl)imidazole | 0.07 mol, 7.8 g | COCN1C=NC=C1 | C5H8N2O
reactant | N,N,N',N'-tetramethylethylenediamine | 0.072 mol, 8.1 g | CN(CCN(C)C)C | C6H16N2
reactant | 2,4-dichloro-4'-fluorobenzophenone | 0.070 mol, 18.9 g | ClC1=C(C(=O)C2=CC=C(C=C2)F)C=CC(=C1)Cl | C13H7Cl2FO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | α-(2,4-Dichlorophenyl)-α-(p-fluorophenyl)-1-(methoxymethyl)imidazole-2-methanol | ClC1=C(C=CC(=C1)Cl)C(O)(C=1N(C=CN1)COC)C1=CC=C(C=C1)F | C18H15Cl2FN2O2
